US05049551
Preparation of 1-[5-[N-(2-n-propyl-n-pentanoyl)glycyl]-amino-n-pentylcarbamoyl]-5-fluorouracil
In a solution of 1.09 g (8.42 mmole) of 5-fluorouracil dissolved in 30 ml of pyridine was blown 0.75 g (7.58 mmole) of phosgene in the same manner as described in Example 7 to conduct the reaction. A yellowish crystals-suspended liquor thus prepared was stirred for one hour under cooling. Under substantially the same conditions as in Example 7, to this suspension was added dropwise a solution comprising 1.93 g (6.76 mmole) of N-[N-(2-n-propyl-n-pentanoyl)glycyl]pentamethylenediamine synthesized by reacting pentamethylenediamine and N-(2-propyl-n-pentanoyl)glycine under substantially the same conditions described in Reference example 12 and 1.53 g (15.16 mmole) of triethylamine dissolved in 20 ml pyridine to conduct the reaction. After treating the reaction mixture in the same manner as described in Example 7, by using the same developing solvent as described in Example 7, fractions which seem to be the title compound were collected. 1.15 g (Yield: 38.5%) of pale yellow crystals were obtained. A part of the crystals was purified again by using silica gel column chromatography with the same developing solvent to give pure 1-[5-[N-(2-n-propyl-n-pentanoyl)glycyl]amino-n-pentylcarbamoyl]-5-fluorouracil as colorless crystals.

reactant | 5-fluorouracil | 8.42 mmole, 1.09 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | phosgene | 7.58 mmole, 0.75 g | C(=O)(Cl)Cl | CCl2O
reactant | N-[N-(2-n-propyl-n-pentanoyl)glycyl]pentamethylenediamine | 6.76 mmole, 1.93 g | C(CC)C(C(=O)NCC(=O)NCCCCCN)CCC | C15H31N3O2
reactant | pentamethylenediamine | NCCCCCN | C5H14N2
reactant | N-(2-propyl-n-pentanoyl)glycine | C(CC)C(C(=O)NCC(=O)O)CCC | C10H19NO3
reactant | triethylamine | 15.16 mmole, 1.53 g | C(C)N(CC)CC | C6H15N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-[5-[N-(2-n-propyl-n-pentanoyl)glycyl]-amino-n-pentylcarbamoyl]-5-fluorouracil | C(CC)C(C(=O)NCC(=O)CCCCCN(C(=O)N1C(=O)NC(=O)C(=C1)F)N)CCC | C20H32FN5O5
